** sch_path: /home/ttuser/ttsky-analog-equalizer/xschem/testbench.sch
**.subckt testbench IN
*.ipin IN
x1 VDD VSS IN OUT double_inverter
V1 VDD GND 1.8
V2 VSS GND 0
R1 ACTUAL_OUT OUT 1k m=1
C1 ACTUAL_OUT GND 1p m=1
**** begin user architecture code

** opencircuitdesign pdks install
.lib /home/ttuser/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt





.control

tran 100n 200n

write testbench.raw

.endc



**** end user architecture code
**.ends

* expanding   symbol:  double_inverter.sym # of pins=4
** sym_path: /home/ttuser/ttsky-analog-equalizer/xschem/double_inverter.sym
** sch_path: /home/ttuser/ttsky-analog-equalizer/xschem/double_inverter.sch
.subckt double_inverter VDD VSS BEFORE_INVERT UNDO_INVERT
*.iopin VDD
*.iopin VSS
*.ipin BEFORE_INVERT
*.opin UNDO_INVERT
XM1 AFTER_INVERT BEFORE_INVERT VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 AFTER_INVERT BEFORE_INVERT VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 UNDO_INVERT AFTER_INVERT VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=20 nf=20 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 UNDO_INVERT AFTER_INVERT VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=20 nf=20 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.end
