** sch_path: /home/ttuser/ssh_analog/ttsky-analog-equalizer/xschem/d_latch.sch
.subckt d_latch vout+ vout- vin+ vin- VDD VSS clk+ clk- vbias
*.PININFO VDD:B VSS:B vin+:I clk-:I vbias:I vout+:O clk+:I vout-:O vin-:I
XM1 net1 vin+ net3 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=5 nf=1 m=1
XM2 net4 vbias VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=8 nf=1 m=1
XM4 net2 vin- net3 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=5 nf=1 m=1
XM3 net2 net1 net5 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=5 nf=1 m=1
XM5 net1 net2 net5 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=5 nf=1 m=1
XM6 net3 clk+ net4 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=5 nf=1 m=1
XM7 net5 clk- net4 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=5 nf=1 m=1
XM8 vout+ net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 m=1
XM9 vout+ net1 VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 m=1
XM10 vout- net2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 m=1
XM11 vout- net2 VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 m=1
XR3 net1 VDD VSS sky130_fd_pr__res_high_po_0p69 L=7 mult=1 m=1
XR1 net2 VDD VSS sky130_fd_pr__res_high_po_0p69 L=7 mult=1 m=1
.ends
.end
